US04245099
(a) 1-Propionyl-3-acetylaminomethyl-5,6,7,8-tetrahydro-2-naphthol
1.45 g of 3-propionyl-3-acetylaminomethyl-5,6,7,8-tetrahydro-2-naphthylpropionate was dissolved in 5 ml of methylene chloride and 2.0 g of aluminum chloride was added to the solution. After a homogeneous solution was formed, methylene chloride was distilled off from the reaction system while raising temperature and solution was heated at 100° C. for 10 minutes. After allowing the solution to cool, water was added thereto, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with water, an aqueous solution bicarbonate solution and an aqueous sodium chloride solution, dried and concentrated. The residue was chromatographed on silica gel column using a mixed solvent of methylene chloride: ethyl acetate (10:1 by volume) to obtain 640 mg of the title compound having the following physical properties.

reactant | 3-propionyl-3-acetylaminomethyl-5,6,7,8-tetrahydro-2-naphthylpropionate | 1.45 g | C(CC)(=O)C1(C(C=C2CCCCC2=C1)C(C(=O)[O-])C)CNC(C)=O
reactant | aluminum chloride | 2.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 1-Propionyl-3-acetylaminomethyl-5,6,7,8-tetrahydro-2-naphthol | 640 mg | C(CC)(=O)C1=C(C(=CC=2CCCCC12)CNC(C)=O)O | C16H21NO3
